* O:\VSD Intern\LT spice\Schematics\BUF.asc
V1 Vdd 0 1.8
V2 A 0 PULSE(0 1.8 0 0 0 5 10)
M1 N003 A 0 N004 NMOS l=0.13u w=0.13u
M2 Vdd A N003 N001 PMOS l=0.13u w=0.13u
M3 Y N003 0 N005 NMOS l=0.13u w=0.13u
M4 Vdd N003 Y N002 PMOS l=0.13u w=0.13u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\hi\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 50
.backanno
.end
