* O:\VSD Intern\LT spice\Schematics\OR.asc
M1 N004 A 0 N006 NMOS l=0.13u w=0.13u
M2 Vdd A P001 N001 PMOS l=0.13u w=0.13u
V1 Vdd 0 1.8
V2 A 0 PULSE(0 1.8 0 0 0 5 10)
M3 N004 B 0 N007 NMOS l=0.13u w=0.13u
M4 P001 B N004 N002 PMOS l=0.13u w=0.13u
V3 B 0 0
M5 Y N004 0 N005 NMOS l=0.13u w=0.13u
M6 Vdd N004 Y N003 PMOS l=0.13u w=0.13u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\hi\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 50
.backanno
.end
