* O:\VSD Intern\LT spice\Schematics\XOR.asc
V1 Vdd 0 1.8
V2 A 0 PULSE(0 1.8 0 0 0 5 10)
V3 B 0 1
M1 A_bar A 0 N008 NMOS l=0.13u w=0.13u
M2 Vdd A A_bar N003 PMOS l=0.13u w=0.13u
M3 B_bar B 0 N016 NMOS l=0.13u w=0.13u
M4 Vdd B B_bar N013 PMOS l=0.13u w=0.13u
M5 Vdd A N004 N001 PMOS l=0.13u w=0.13u
M6 N004 B_bar Y N006 PMOS l=0.13u w=0.13u
M7 Y A N011 N009 NMOS l=0.13u w=0.13u
M8 N011 B 0 N014 NMOS l=0.13u w=0.13u
M9 Vdd A_bar N005 N002 PMOS l=0.13u w=0.13u
M10 N005 B Y N007 PMOS l=0.13u w=0.13u
M11 Y A_bar N012 N010 NMOS l=0.13u w=0.13u
M12 N012 B_bar 0 N015 NMOS l=0.13u w=0.13u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\hi\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 50
.backanno
.end
