.option scale=1E-6
.include "/home/akil/sky130_fd_pr/models/r+c/res_typical__cap_typical__lin.spice"
.include "/home/akil/sky130_fd_pr/models/r+c/res_typical__cap_typical.spice"
.include "/home/akil/sky130_fd_pr/models/corners/tt.spice"

X1 Vdd A N001 Vdd sky130_fd_pr__pfet_01v8 l=0.18 w=4.6
X2 N001 B N002 N001 sky130_fd_pr__pfet_01v8 l=0.18 w=4.6
X3 N002 B N003 N003 sky130_fd_pr__nfet_01v8 l=0.18 w=2
X4 N003 A 0 0 sky130_fd_pr__nfet_01v8 l=0.18 w=2

X5 Vdd A N004 Vdd sky130_fd_pr__pfet_01v8 l=0.18 w=4.6
X6 Vdd B N004 Vdd sky130_fd_pr__pfet_01v8 l=0.18 w=4.6
X7 N004 C N002 N004 sky130_fd_pr__pfet_01v8 l=0.18 w=4.6
X8 N002 C N005 N005 sky130_fd_pr__nfet_01v8 l=0.18 w=2
X9 N005 B 0 0 sky130_fd_pr__nfet_01v8 l=0.18 w=2
X10 N005 A 0 0 sky130_fd_pr__nfet_01v8 l=0.18 w=2

X11 Vdd A N006 Vdd sky130_fd_pr__pfet_01v8 l=0.18 w=4.6
X12 Vdd B N006 Vdd sky130_fd_pr__pfet_01v8 l=0.18 w=4.6
X13 Vdd C N006 Vdd sky130_fd_pr__pfet_01v8 l=0.18 w=4.6
X14 N006 N002 Y N006 sky130_fd_pr__pfet_01v8 l=0.18 w=4.6
X15 Y N002 N008 N008 sky130_fd_pr__nfet_01v8 l=0.18 w=2
X16 N008 A 0 0 sky130_fd_pr__nfet_01v8 l=0.18 w=2
X17 N008 B 0 0 sky130_fd_pr__nfet_01v8 l=0.18 w=2
X18 N008 C 0 0 sky130_fd_pr__nfet_01v8 l=0.18 w=2

X19 Vdd A N009 Vdd sky130_fd_pr__pfet_01v8 l=0.18 w=6.9
X20 N009 B N010 N009 sky130_fd_pr__pfet_01v8 l=0.18 w=6.9
X21 N010 C Y N010 sky130_fd_pr__pfet_01v8 l=0.18 w=6.9
X22 Y A N011 N011 sky130_fd_pr__nfet_01v8 l=0.18 w =6.9
X23 N011 B N012 N012 sky130_fd_pr__nfet_01v8 l=0.18 w =6.9
X24 N012 C 0 0 sky130_fd_pr__nfet_01v8 l=0.18 w =6.9

CL Y 0 0.6pF

V1 Vdd 0 1.8
V2 A 0 PULSE(0 1.8 0 0.06n 0.06n 10.0n 20n)
V3 B 0 0
V4 C 0 0
.tran 0.1n 100n 
.end